US07501425B1
5-[(3,5-Dimethoxy-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-ylamine
Into 18.2 mL (18.2 mmol) of a 1 M solution of lithium aluminum hydride (LAH) in tetrahydrofuran (THF) cooled to 5° C. was added a solution of 5.55 g (18.3 mmol) of 5-[(3,5-dimethoxy-phenylimino)-methyl]-2-methylsulfanyl-pyrimidin-4-ylamine in 94 mL of dry THF over 20 minutes. The reaction was stirred for 1.5 hours at 5° C., then quenched by slow sequential addition of 0.72 mL of water, 3.0 mL of 25% NaOH, and an additional 1.66 mL of water. The reaction mixture was filtered through Celite, and the filter pad was washed well with THF. The filtrate was concentrated to dryness in vacuo. The residue was dissolved in ethyl acetate. The ethyl acetate solution was washed three times with a solution of saturated sodium chloride, dried over magnesium sulfate, and concentrated in vacuo to give 5.10 g (91%) of the title compound.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-[(3,5-dimethoxy-phenylimino)-methyl]-2-methylsulfanyl-pyrimidin-4-ylamine | 18.3 mmol, 5.55 g | COC=1C=C(C=C(C1)OC)N=CC=1C(=NC(=NC1)SC)N | C14H16N4O2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 94 mL | O1CCCC1 | C4H8O
product | 5-[(3,5-Dimethoxy-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-ylamine | 5.10 g, 91% | COC=1C=C(C=C(C1)OC)NCC=1C(=NC(=NC1)SC)N | C14H18N4O2S
